US06797823B1
N-{3,5-Dichloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(2,4-difluorophenyl)urea
3,5-Dichloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]-aniline (53 mg) was dissolved in chloroform (5 ml), and 2,4-difluorophenyl isocyanate (34 μl) was added to the solution. The mixture was heated under reflux overnight. The solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/acetone (2/1) to give 56 mg (yield 74%) of the title compound.

reactant | 3,5-Dichloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]-aniline | 53 mg | ClC=1C=C(N)C=C(C1OC1=CC=NC2=CC(=C(C=C12)OC)OC)Cl | C17H14Cl2N2O3
reactant | 2,4-difluorophenyl isocyanate | 34 μl | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{3,5-Dichloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(2,4-difluorophenyl)urea | 56 mg, yield 74% | ClC=1C=C(C=C(C1OC1=CC=NC2=CC(=C(C=C12)OC)OC)Cl)NC(=O)NC1=C(C=C(C=C1)F)F | C24H17Cl2F2N3O4
